US07714126B2
With a procedure similar to example 16 above, 2-phenyl-5-propyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide was prepared from 2-phenyl-5-propyl-oxazole-4-carboxylic acid and 6-morpholin-4-yl-pyridin-3-ylamine. LCMS calcd for C22H24N4O3 (m/e) 392, obsd 393 (M+H).

reactant | 2-phenyl-5-propyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)CCC | C13H13NO3
reactant | 6-morpholin-4-yl-pyridin-3-ylamine | N1(CCOCC1)C1=CC=C(C=N1)N | C9H13N3O
product | 2-phenyl-5-propyl-oxazole-4-carboxylic acid (6-morpholin-4-yl-pyridin-3-yl)-amide | N1(CCOCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1CCC)C1=CC=CC=C1 | C22H24N4O3
